US04415572
6-(1-Piperazinyl)-3,4-dihydrocarbostyril monohydrobromide (3.5 g) was suspended in 40 ml of dimethylformamide (hereafter referred to as DMF for brevity). After adding 960 mg of sodium hydrogencarbonate, the suspension was stirred at room temperature for 30 minutes to convert the starting compound to 6-(1-piperazinyl)-3,4-dihydrocarbostyril. Then, to the mixture was added 2.34 ml of triethylamine and the mixture was stirred at room temperature while slowly adding dropwise 10 ml of DMF solution containing 2.9 g of 3,4-dimethoxybenzoyl chloride. After completion of addition the reaction mixture was stirred for 30 minutes. The reaction mixture was poured into a large amount of saturated saline solution and extracted with chloroform. The extract was washed with saturated sodium hydrogen carbonate solution and subsequently with water and dried over anhydrous sodium sulfate. Chloroform was distilled off and residual crystals were recrystallized from chloroform-ethanol to give 3.8 g of 6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril, m.p. 238°-239.5° C., colorless granules.

reactant | 6-(1-Piperazinyl)-3,4-dihydrocarbostyril monohydrobromide | 3.5 g | Br.N1(CCNCC1)C=1C=C2CCC(NC2=CC1)=O
reactant | sodium hydrogencarbonate | 960 mg | C(O)([O-])=O.[Na+]
reactant | 6-(1-piperazinyl)-3,4-dihydrocarbostyril | N1(CCNCC1)C=1C=C2CCC(NC2=CC1)=O | C13H17N3O
reactant | 3,4-dimethoxybenzoyl chloride | 2.9 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | DMF | 10 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 2.34 ml | C(C)N(CC)CC | C6H15N
product | 6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 3.8 g | COC=1C=C(C(=O)N2CCN(CC2)C=2C=C3CCC(NC3=CC2)=O)C=CC1OC | C22H25N3O4
